US05250537
6,7,8,9,10,11-Hexahydro-7,11-imino-5H-cyclooct[b]indole
This compound was prepared from 9-azabicyclo[3.3.1]nonan-3-one hydrochloride and phenylhydrazine by Fischer indole synthesis as described in Example 1, Method A, to give colorless crystals, mp 198°-203° C. (from methylene chloride; it was also converted to a hydrogen oxalate hemihydrate, mp 68°-72° C. (from ethanol-ether).

reactant | 9-azabicyclo[3.3.1]nonan-3-one hydrochloride | Cl.C12CC(CC(CCC1)N2)=O
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | hydrogen oxalate hemihydrate | O.C(C(=O)O)(=O)O.C(C(=O)O)(=O)O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6,7,8,9,10,11-Hexahydro-7,11-imino-5H-cyclooct[b]indole | N1C2CCCC1C1=C(NC3=CC=CC=C13)C2 | C14H16N2
